* source OSCILLATOR
X_U1         N00193 N00238 N00398 N00414 N00213 OP-27
R_R1         N00238 N00213  2.2k TC=0,0 
R_R2         0 N00238  1k TC=0,0 
R_R3         N00209 N00213  330 TC=0,0 
C_C1         N00193 N00209  4.7n  TC=0,0 
C_C2         0 N00193  4.7n  TC=0,0 
R_R4         0 N00193  330 TC=0,0 
V_V1         N00398 0 15Vdc
V_V2         0 N00414 15Vdc
